** sch_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/dac/dac_sw_1state/xschem/dac_sw_1state.sch
.subckt dac_sw_1state VDD VSS CLK VIN VOUT CLKN
*.PININFO VIN:B VOUT:B CLK:B CLKN:B VSS:B VDD:B
MSN VOUT CLK VIN VSS nfet_03v3 L=0.28u W=0.5u nf=1 m=7
MSP VIN CLKN VOUT VDD pfet_03v3 L=0.28u W=0.5u nf=1 m=7
.ends
